US08648200B2
2-Methyl-3-[4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyrimidine
In a thermally controlled reactor, stir a mixture of 2-bromo-1-[4-(trifluoromethyl)phenyl]propan-1-one (500 g, 1.78 mol, 1 equiv), IPA (5 L), 2-aminopyrimidine (205 g, 2.13 mol, 1.2 equiv), and sodium bicarbonate (298.8 g, 3.55 mol, 2 equiv) at 80° C. for 18 hours. Cool the suspension, and concentrate in vacuo. Dilute the resulting mixture in DCM (5 L), and wash with brine (2 L). Re-extract the brine wash with DCM (2.5 L); combine all the organic phases; and dry over MgSO4; filter; and collect the filtrate. Concentrate the filtrate to dryness under reduced pressure, and slurry the resulting red gum in Et2O (1.5 L). Collect the resulting solid by filtrate, and air dry for 45 min to give the title compound as a fine, off white solid (108 g, 22% yield). MS (m/z) 278 (M+1).

reactant | 2-bromo-1-[4-(trifluoromethyl)phenyl]propan-1-one | 1.78 mol, 500 g, 1 equiv | BrC(C(=O)C1=CC=C(C=C1)C(F)(F)F)C | C10H8BrF3O
reactant | 2-aminopyrimidine | 2.13 mol, 205 g, 1.2 equiv | NC1=NC=CC=N1 | C4H5N3
reactant | sodium bicarbonate | 3.55 mol, 298.8 g, 2 equiv | C([O-])(O)=O.[Na+]
solvent | IPA | 5 L | CC(C)O | C3H8O
product | 2-Methyl-3-[4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyrimidine | CC=1N=C2N(C=CC=N2)C1C1=CC=C(C=C1)C(F)(F)F | C14H10F3N3
